### PR TITLE
[Merged by Bors] - feat(NumberTheory/Height/EllipticCurve): new file

### PR DESCRIPTION
**Pull request by MichaelStollBayreuth**
This PR defines the "addition-and-subtraction map" on x-coordinates of pairs of points on elliptic curves and proves an inequality for the logarithmic height of the image.

In a later PR, we will show that the map thus defined indeed comes from addition and subtraction on an elliptic curve.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean [hunk 1]
```diff
@@ -0,0 +1,145 @@
...
+    simp only [Fin.isValue, Fin.mk_one, Fin.zero_eta, Fin.reduceFinMk, Matrix.cons_val,
+      Matrix.cons_val_one, Matrix.cons_val_zero]
+  · refine .add (.sub (.sub (isHomogeneous_X_pow ..) ?_) ?_) (isHomogeneous_C_mul_X_pow ..) <;>
+      exact .mul (m := 1) (n := 1) (isHomogeneous_C_mul_X ..) (isHomogeneous_X ..)
+  · refine .add (.add ?_ ?_) (isHomogeneous_C_mul_X_pow ..) <;>
+      exact .mul (m := 1) (n := 1) (isHomogeneous_C_mul_X ..) (isHomogeneous_X ..)
+  · exact .sub (isHomogeneous_X_pow ..) <|
+      .mul (m := 1) (n := 1) (isHomogeneous_C_mul_X ..) (isHomogeneous_X ..)
+
+lemma isHomogenous_addSubMapCoeff (ij : Fin 3 × Fin 3) :
```
Comment (riccardobrasca) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean]: Have you tried to see if `grind` or something like can help in shorten this a bit? Not sure it is doable, but it seems the job of a tactic.

Comment (MichaelStollBayreuth) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean]: I did, but without success. I think the problem here is that it would have to guess the degrees of the subterms (i.e., the `(m := 1) (n := 1)` part).

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean [hunk 2]
```diff
@@ -0,0 +1,145 @@
...
+  · refine .add ?_ (isHomogeneous_C_mul_X_pow ..)
+    exact .mul (m := 1) (n := 1) (isHomogeneous_C_mul_X ..) (isHomogeneous_X ..)
+  · refine .add ?_ (isHomogeneous_C_mul_X_pow ..)
+    refine .add ?_ <| .mul (m := 1) (n := 1) (isHomogeneous_C_mul_X ..) (isHomogeneous_X ..)
+    exact .mul (m := 1) (n := 1) (isHomogeneous_C_mul_X ..) (isHomogeneous_X ..)
+  · refine .sub ?_ (isHomogeneous_C_mul_X_pow ..)
+    refine .sub ?_ <| .mul (m := 1) (n := 1) (isHomogeneous_C_mul_X ..) (isHomogeneous_X ..)
+    exact isHomogeneous_C_mul_X_pow ..
+
+variable (hab : 32 * a ^ 3 + 216 * b ^ 2 ≠ 0)
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean]: This should be an `IsElliptic` condition.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean [hunk 3]
```diff
@@ -0,0 +1,145 @@
...
+
+public section
+
+namespace WeierstrassCurve
+
+/-!
+### The addition-and-subtraction map on x-coordinates
+-/
+
+variable {K : Type*} [Field K] (a b : K)
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean]: Many of these definitions can be `CommRing R`

File: Mathlib/NumberTheory/Height/EllipticCurve.lean [hunk 4]
```diff
@@ -0,0 +1,67 @@
...
+
+open Height
+
+variable {K : Type*} [Field K] [AdmissibleAbsValues K] {a b : K}
+  (hab : 32 * a ^ 3 + 216 * b ^ 2 ≠ 0)
+
+open MvPolynomial
+
+include hab in
+/-- If `a b : K` and  `D := 32*a^3 + 216*b^2` is nonzero, then the map `F : ℙ² → ℙ²` given by
```
Comment (Multramate) [inline Mathlib/NumberTheory/Height/EllipticCurve.lean]:
```suggestion
/-- If `a b : K` and `D := 32*a^3 + 216*b^2` is nonzero, then the map `F : ℙ² → ℙ²` given by
```

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean [hunk 5]
```diff
@@ -0,0 +1,145 @@
...
+
+open MvPolynomial
+
+/-- The polynomial map on coordinate vectors giving
+`(x(P) * x(Q) : x(P) + x(Q) : 1) ↦ (x(P+Q) * x(P-Q) : x(P+Q) + x(P-Q) : 1)`
+for points `P`, `Q` on the elliptic curve `y² = x³ + a*x + b`. -/
+noncomputable def addSubMap : Fin 3 → MvPolynomial (Fin 3) K :=
+  letI s := X 0
+  letI t := X 1
+  letI u := X 2
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean]: We should use the `name_poly_vars X, Y, Z over K` trick as in `EllipticCurve/Projective/Basic.lean` and the subsequent files; this way you don't need to do `s`, `t`, `u`.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean [hunk 6]
```diff
@@ -0,0 +1,145 @@
...
+  ![s ^ 2 - C (2 * a) * s * u - C (4 * b) * t * u + C (a ^ 2) * u ^ 2,
+    C 2 * t * s + C (2 * a) * t * u + C (4 * b) * u ^ 2,
+    t ^ 2 - C 4 * s * u]
+
+/-- The coefficient polynomials in linear combinations of the polynomials in `addSubMap`
+that result in the fourth powers of the variables, multiplied by `32*a^3 + 216*b^2`. -/
+noncomputable def addSubMapCoeff : Fin 3 × Fin 3 → MvPolynomial (Fin 3) K :=
+  letI s := X (σ := Fin 3) 0
+  letI t := X (σ := Fin 3) 1
+  letI u := X (σ := Fin 3) 2
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean]: Ditto here.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean [hunk 7]
```diff
@@ -0,0 +1,145 @@
...
+    refine .sub ?_ <| .mul (m := 1) (n := 1) (isHomogeneous_C_mul_X ..) (isHomogeneous_X ..)
+    exact isHomogeneous_C_mul_X_pow ..
+
+variable (hab : 32 * a ^ 3 + 216 * b ^ 2 ≠ 0)
+
+variable {a b}
+
+include hab in
+lemma addSubMapCoeff_condition (x : Fin 3 → K) (i : Fin 3) :
+    ∑ j : Fin 3, (C ((32 * a ^ 3 + 216 * b ^ 2)⁻¹) * addSubMapCoeff a b (i, j)).eval x *
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean]: If you assume this is quantity `IsUnit`, then you can do `IsUnit.unit\^-1`

**Review by Multramate — CHANGES_REQUESTED** [review]
We're currently discussing this in person. My two main complaints are as follows:
- We should use the `WeierstrassCurve` API of `a_i` rather than `a` and `b`. I'd imagine the formulas for x(P)*x(Q) and x(P)+x(Q) can be generalised to work for the full Weierstrass equation rather than just `y^2 = x^3 + ax + b`, albeit a lot more tedious.
- This can be made to work with projective coordinates and should be in the `Projective` namespace rather than the `Affine` namespace.

At this point I think it's worth doing both of these and I can experiment with them. For the tedious proofs that they're homogeneous ideally we want a metaprogram that proves homogeneity, but I don't know how to write one so we'll just keep it like that for now.

**Comment by Multramate** [comment]
Sorry I completely forgot about this! I'll try to do something soon. Thanks for the notification...

**Comment by MichaelStollBayreuth** [comment]
I'm trying to do a few things right now...

**Comment by MichaelStollBayreuth** [comment]
Main changes:
* The formulas work for general Weierstrass curves and are expressed in terms of the `W.bᵢ`.
* Instead of a field `K`, they only assume a commutative ring `R` for the coefficients.
* I use `name_poly_vars` to define `s`, `t`, `u`.
* I have simplified the homogeneity proofs by stating two private lemmas that can be used as building blocks. (One can automate this, but the resulting proof is about four times slower; see the comment.)

**Comment by MichaelStollBayreuth** [comment]
@Multramate @riccardobrasca Can we get this moving again? I think I have addressed all the comments, except moving from `Affine` to `Projective`. But the plan is (still) to work with affine points for the proof of the approximate parallelogram law (as they are, at least in my experience so far, more convenient to work with -- a first further step is in #40303), so I think `Affine` is the better place. Of course, the more interesting results should be transferred to projective points as well, but this can happen in a separate file under `Projective` that imports `Affine.AddSubMap`. The material added here that is independent from affine vs. projective is in the `WeierstrassCurve` namespace.

**Comment by riccardobrasca** [comment]
Sorry, I forgot about it, having another look right now.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean [hunk 8]
```diff
@@ -0,0 +1,147 @@
...
+
+public import Mathlib.AlgebraicGeometry.EllipticCurve.Weierstrass
+public import Mathlib.LinearAlgebra.Matrix.Notation
+public import Mathlib.RingTheory.MvPolynomial.Homogeneous
+public import Mathlib.Tactic.Ring.NamePolyVars
+
+/-!
+# The approximate parallelogram law on elliptic curves
+
+If `K` is a field with `AdmissibleAbsoluteValues` and `E` is an elliptic curve over `K`,
```
Comment (riccardobrasca) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean]: This docstring seems about a totally different file.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean [hunk 9]
```diff
@@ -0,0 +1,147 @@
...
+lemma isHomogeneous_addSubMap (i : Fin 3) : (addSubMap W i).IsHomogeneous 2 := by
+  simp only [addSubMap]
+  fin_cases i <;>
+    simp only [Fin.isValue, Fin.mk_one, Fin.zero_eta, Fin.reduceFinMk, Matrix.cons_val,
+      Matrix.cons_val_one, Matrix.cons_val_zero]
+  · exact .sub (.sub (.sub (isHomogeneous_X_pow ..) CXY) CXY) CXX
+  · exact .add (.add (.add CXY CXY) CXY) CXX
+  · exact .sub (isHomogeneous_X_pow ..) CXY
+
+lemma isHomogenous_addSubMapCoeff (ij : Fin 3 × Fin 3) : (addSubMapCoeff W ij).IsHomogeneous 2 := by
```
Comment (riccardobrasca) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean]:
```suggestion
lemma isHomogeneous_addSubMapCoeff (ij : Fin 3 × Fin 3) : (addSubMapCoeff W ij).IsHomogeneous 2 := by
```

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean [hunk 10]
```diff
@@ -0,0 +1,147 @@
...
+`addSubMapCoeff_condition` below. -/
+noncomputable def bRelationCoeffs : Fin 3 → MvPolynomial (Fin 3) R :=
+  ![C (-8 * W.b₄ ^ 2) * s ^ 3 * u + C (5 * W.b₈) * s ^ 2 * t ^ 2 +
+      C (3 * W.b₂ * W.b₈ - 11 * W.b₄ * W.b₆) * s ^ 2 * t * u +
+      C (-8 * W.b₄ * W.b₈) * s ^ 2 * u ^ 2 + C (3 * W.b₄ * W.b₈ - 3 * W.b₆ ^ 2) * s * t ^ 2 * u,
+    C (-32 * W.b₄) * s * t ^ 2 * u + C (16 * W.b₆) * s * t * u ^ 2 + C (-16 * W.b₆) * t ^ 3 * u +
+      C (-16 * W.b₈) * t ^ 2 * u ^ 2,
+    C (-28) * s * u ^ 3 + C 4 * t ^ 2 * u ^ 2 + C (-W.b₂) * t * u ^ 3 +  C (-8 * W.b₄) * u ^ 4]
+
+private lemma CXX {i : Fin 3} {a : R} : (C a * X (R := R) i ^ 2).IsHomogeneous 2 :=
```
Comment (riccardobrasca) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean:80]:
```suggestion
private lemma CXX {i : Fin 3} : (C a * X (R := R) i ^ 2).IsHomogeneous 2 :=
```
`a` and `b` are already in scope (but they are explicit).

File: Mathlib/NumberTheory/Height/EllipticCurve.lean [hunk 11]
```diff
@@ -0,0 +1,64 @@
...
+
+This file defines the *naïve height* on an elliptic curve (over a field `K` with a theory of
+heights, i.e., satisfying `[Height.AdmissibleAbsValues K]`).
+
+The final goal of this file is to prove the *approximate parallelogram law* for (affine) points
+on elliptic curves,
+```
+  |h(P+Q) + h(P-Q) - 2*(h(P) + h(Q))| ≤ C
+```
+whre `h` is the naïve height, `P` and `Q` are affine points on a `WeierstrassCurve` and `C`
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/Height/EllipticCurve.lean]:
```suggestion
where `h` is the naïve height, `P` and `Q` are affine points on a `WeierstrassCurve` and `C`
```

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean [hunk 12]
```diff
@@ -0,0 +1,147 @@
...
+/-- The coefficient polynomials in linear combinations of the polynomials in `addSubMap`
+that result in the fourth powers of the variables, multiplied by `W.Δ`. -/
+noncomputable def addSubMapCoeff : Fin 3 × Fin 3 → MvPolynomial (Fin 3) R :=
+  ![![C (-W.b₂ ^ 2 * W.b₈ + 9 * W.b₂ * W.b₄ * W.b₆ - 8 * W.b₄ ^ 3 - 27 * W.b₆ ^ 2) * s ^ 2 +
+        C (2 * W.b₂ * W.b₄ * W.b₈ - 2 * W.b₄ ^ 2 * W.b₆ - 10 * W.b₆ * W.b₈) * s * t +
+        C (-W.b₂ * W.b₆ * W.b₈ + W.b₄ * W.b₆ ^ 2) * s * u +
+        C (3 * W.b₄ ^ 2 * W.b₈ - 3 * W.b₄ * W.b₆ ^ 2) * t ^ 2 +
+        C (3 * W.b₄ * W.b₆ * W.b₈ - 3 * W.b₆ ^ 3) * t * u,
+      C (-W.b₂ * W.b₄ * W.b₈ + W.b₄ ^ 2 * W.b₆ + 5 * W.b₆ * W.b₈) * s ^ 2 +
+        C (2 * W.b₂ * W.b₆ * W.b₈ - 2 * W.b₄ * W.b₆^2 - 10 * W.b₈ ^ 2) * s * t  +
```
Comment (riccardobrasca) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean]:
```suggestion
        C (2 * W.b₂ * W.b₆ * W.b₈ - 2 * W.b₄ * W.b₆ ^ 2 - 10 * W.b₈ ^ 2) * s * t +
```

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean [hunk 13]
```diff
@@ -0,0 +1,147 @@
...
+        C (-W.b₂ * W.b₈ ^ 2 + W.b₄ * W.b₆ * W.b₈) * s * u +
+        C (3 * W.b₄ * W.b₆ * W.b₈ - 3 * W.b₆ ^ 3) * t ^ 2 +
+        C (3 * W.b₄ * W.b₈ ^ 2 -3 * W.b₆ ^ 2 * W.b₈) * t * u,
```
Comment (riccardobrasca) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean]:
```suggestion
        C (3 * W.b₄ * W.b₈ ^ 2 - 3 * W.b₆ ^ 2 * W.b₈) * t * u,
```

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean [hunk 14]
```diff
@@ -0,0 +1,147 @@
...
+        C (-6 * W.b₄ * W.b₆ * W.b₈ + 6 * W.b₆ ^ 3) * s * t +
+        C (-8 * W.b₄ * W.b₈ ^ 2 + 8 * W.b₆ ^ 2 * W.b₈) * s * u],
+    ![C (96 * W.b₆) * s * t + C (12 * W.b₂ * W.b₆ - 64 * W.b₈) * t ^ 2 +
+        C (16 * W.b₄ * W.b₆) * t * u,
+      C (-48 * W.b₆) * s ^ 2 + C (32 * W.b₈) * s * t +
+        C (-4 * W.b₂ * W.b₈ + 16 * W.b₄ * W.b₆) * t ^ 2 + C (16 * W.b₄ * W.b₈) * t * u,
+      C (-12 * W.b₂ * W.b₆) * s ^ 2 + C (8 * W.b₂ * W.b₈ - 32 * W.b₄ * W.b₆) * s * t +
+        C (-12 * W.b₆ ^ 2) * s * u +
+        C (-W.b₂ ^ 2 * W.b₈ + 9 * W.b₂ * W.b₄ * W.b₆ - 8 * W.b₄ ^ 3 - 27 * W.b₆ ^ 2) * t ^ 2 +
+        C (4 * W.b₂ * W.b₄ * W.b₈ - 4 * W.b₂ * W.b₆ ^ 2 ) * t * u],
```
Comment (riccardobrasca) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean]:
```suggestion
        C (4 * W.b₂ * W.b₄ * W.b₈ - 4 * W.b₂ * W.b₆ ^ 2) * t * u],
```

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean [hunk 15]
```diff
@@ -0,0 +1,147 @@
...
+    ![C (-12) * t ^ 2 + C (-4 * W.b₂) * t * u +  C (W.b₂ ^ 2 - 32 * W.b₄) * u ^ 2,
```
Comment (riccardobrasca) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean]:
```suggestion
    ![C (-12) * t ^ 2 + C (-4 * W.b₂) * t * u + C (W.b₂ ^ 2 - 32 * W.b₄) * u ^ 2,
```

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean [hunk 16]
```diff
@@ -0,0 +1,147 @@
...
+/-- The multiples of the relation `W.b_relation`, which is equivalent to
+`4*W.b₈ - W.b₂*W.b₆ + W.b₄^2 = 0`, that we have to add to show the equality in
+`addSubMapCoeff_condition` below. -/
+noncomputable def bRelationCoeffs : Fin 3 → MvPolynomial (Fin 3) R :=
+  ![C (-8 * W.b₄ ^ 2) * s ^ 3 * u + C (5 * W.b₈) * s ^ 2 * t ^ 2 +
+      C (3 * W.b₂ * W.b₈ - 11 * W.b₄ * W.b₆) * s ^ 2 * t * u +
+      C (-8 * W.b₄ * W.b₈) * s ^ 2 * u ^ 2 + C (3 * W.b₄ * W.b₈ - 3 * W.b₆ ^ 2) * s * t ^ 2 * u,
+    C (-32 * W.b₄) * s * t ^ 2 * u + C (16 * W.b₆) * s * t * u ^ 2 + C (-16 * W.b₆) * t ^ 3 * u +
+      C (-16 * W.b₈) * t ^ 2 * u ^ 2,
+    C (-28) * s * u ^ 3 + C 4 * t ^ 2 * u ^ 2 + C (-W.b₂) * t * u ^ 3 +  C (-8 * W.b₄) * u ^ 4]
```
Comment (riccardobrasca) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean]:
```suggestion
    C (-28) * s * u ^ 3 + C 4 * t ^ 2 * u ^ 2 + C (-W.b₂) * t * u ^ 3 + C (-8 * W.b₄) * u ^ 4]
```

**Review by riccardobrasca — COMMENTED** [review]
It looks basically good to me. @Multramate do you have any other comment?

**Comment by Multramate** [comment]
> It looks basically good to me. @Multramate do you have any other comment?

I will look at this tomorrow evening, sorry has been an incredibly tough week for me.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean (hunk 8 above)
Comment (MichaelStollBayreuth) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean]: I guess that was an oversight when splitting the original file. I'll edit it.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean (hunk 10 above)
Comment (MichaelStollBayreuth) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean:80]: I want them implicit for ease of use later; so I'm replacing with `variable {a} in`.

Comment (riccardobrasca) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean:80]: I have the impression the declared `a` is never used, maybe you can just make it implicit from the beginning.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean (hunk 16 above)
Comment (MichaelStollBayreuth) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean]: Thanks for spotting these! I'm looking forward to the code formatter...

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean (hunk 10 above)
Comment (MichaelStollBayreuth) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean:80]: Actually, I should remove `a` and `b` from the variables; they are a left-over from when I did this for short Weierstrass equations.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean [hunk 17]
```diff
@@ -0,0 +1,151 @@
...
+
+variable {R : Type*} [CommRing R] (W : WeierstrassCurve R)
+
+open MvPolynomial
+
+name_poly_vars s, t, u over R
+
+/-- The polynomial map on coordinate vectors giving
+`(x(P) * x(Q) : x(P) + x(Q) : 1) ↦ (x(P+Q) * x(P-Q) : x(P+Q) + x(P-Q) : 1)`
+for points `P`, `Q` on the elliptic curve `W`. -/
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean]:
```suggestion
for points `P`, `Q` on the Weierstrass curve `W`. -/
```

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean [hunk 18]
```diff
@@ -0,0 +1,151 @@
...
+  · exact .add (.add (.add (.add CXX CXY) CXY) CXX) CXY
+  · exact .add (.add CXX CXY) CXX
+  · exact .add (.add (.add CXY CXY) CXY) CXX
+  · exact .add (.add CXY CXY) CXX
+
+variable [W.IsElliptic]
+
+lemma addSubMapCoeff_condition (x : Fin 3 → R) (i : Fin 3) :
+    ∑ j : Fin 3, (C (↑W.Δ'⁻¹ : R) * addSubMapCoeff W (i, j)).eval x *
+      (addSubMap W j).eval x = x i ^ (2 + 2) := by
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean]: Why 2 + 2 instead of 4?

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean [hunk 19]
```diff
@@ -0,0 +1,151 @@
...
+    isHomogeneous_C_mul_X_pow ..
+
+private lemma CXY {i j : Fin 3} {a : R} : (C a * X (R := R) i * X j).IsHomogeneous 2 :=
+    .mul (isHomogeneous_C_mul_X ..) (isHomogeneous_X ..)
+
+lemma isHomogeneous_addSubMap (i : Fin 3) : (addSubMap W i).IsHomogeneous 2 := by
+  simp only [addSubMap]
+  fin_cases i <;>
+    simp only [Fin.isValue, Fin.mk_one, Fin.zero_eta, Fin.reduceFinMk, Matrix.cons_val,
+      Matrix.cons_val_one, Matrix.cons_val_zero]
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean:90]: You might want to have a `matrix_simp` macro or simp set that calls all these things

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean [hunk 20]
```diff
@@ -0,0 +1,151 @@
...
+  · exact .sub (isHomogeneous_X_pow ..) CXY
+
+lemma isHomogeneous_addSubMapCoeff (ij : Fin 3 × Fin 3) :
+    (addSubMapCoeff W ij).IsHomogeneous 2 := by
+  simp only [addSubMapCoeff]
+  fin_cases ij <;>
+    simp only [Nat.succ_eq_add_one, Nat.reduceAdd, Fin.isValue, Function.uncurry_apply_pair,
+      Matrix.cons_val', Matrix.cons_val_zero, Matrix.cons_val_fin_one, neg_mul, Fin.mk_one,
+      Matrix.cons_val_one, Fin.reduceFinMk, Matrix.cons_val, Fin.zero_eta]
+    -- The following works, but is slow (44883 vs. 11592 heartbeats):
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean]: Is this faster/slower?
```
grind [IsHomogeneous.add, CXX, CXY]
```
I can't seem to reproduce your heartbeat numbers.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean [hunk 21]
```diff
@@ -0,0 +1,151 @@
...
+  have hr : 4 * W.b₈ - W.b₂ * W.b₆ + W.b₄ ^ 2 = 0 := by linear_combination W.b_relation
+  simp only [eval_mul, eval_C, mul_assoc]
+  rw [← Finset.mul_sum, Units.inv_mul_eq_iff_eq_mul, Fin.sum_univ_three]
+  simp only [addSubMap, addSubMapCoeff, Function.uncurry_apply_pair]
+  have : -(bRelationCoeffs W i).eval x * (4 * W.b₈ - W.b₂ * W.b₆ + W.b₄ ^ 2) = 0 := by simp [hr]
+  fin_cases i <;>
+    simp only [Nat.succ_eq_add_one, Nat.reduceAdd, Fin.isValue, neg_mul, Fin.zero_eta,
+      Matrix.cons_val_zero, Matrix.cons_val_one, map_sub, map_add, map_mul, eval_C, map_pow,
+      eval_X, map_neg, Fin.reduceFinMk, Matrix.cons_val, Fin.mk_one, coe_Δ', Δ] <;>
+    rw [← sub_eq_zero, ← this] <;> simp [bRelationCoeffs] <;> ring
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean]: Seems like a job for `grind` and maybe more:
```suggestion
  simp only [eval_mul, eval_C, mul_assoc]
  rw [← Finset.mul_sum, Units.inv_mul_eq_iff_eq_mul, Fin.sum_univ_three]
  simp only [addSubMap, addSubMapCoeff, Function.uncurry_apply_pair]
  fin_cases i <;> simp only [map_add, map_sub, map_mul, map_pow, eval_C, eval_X, Fin.reduceFinMk,
    Matrix.cons_val, coe_Δ', Δ] <;> grind only [b_relation]
```

**Review by Multramate — COMMENTED** [review]
I'm not a fan of `grind`, but I think you can now remove `bRelationCoeffs` :)

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean (hunk 20 above)
Comment (MichaelStollBayreuth) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean]: The heartbeat numbers are obtained via
```lean
set_option Elab.async false in
#count_heartbeats in
```
I get 11590 with the current version, 44889 with the `repeat first | ...` version, and 86390 with `grind`.
So, yes, it works, but is rather slow.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean (hunk 18 above)
Comment (MichaelStollBayreuth) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean]: Because this is the form `logHeight_eval_ge'` wants. But as `2 + 2` and `4` are defeq, `4` does work after telling `logHeight_eval_ge'` that `N = 2` (this is in the other file).

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean (hunk 21 above)
Comment (MichaelStollBayreuth) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean]: This is actually faster (and gets rid of `bRelationCoeffs` as you point out).

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean (hunk 19 above)
Comment (MichaelStollBayreuth) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean:90]: I'm not sure this is worth the effort here to shorten just two `simp only` calls.

**Comment by riccardobrasca** [comment]
I agree that a simp set seems a bit too much for this PR, but it may be interesting in the future. 

bors d+

**Comment by MichaelStollBayreuth** [comment]
@Multramate Any further comments before I merge?

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean (hunk 19 above)
Comment (Multramate) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean:90]: Yeah it's not a huge deal. I had a lot of these things as well for projective coordinates and I might add this in the future.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean [hunk 22]
```diff
@@ -0,0 +1,135 @@
...
+
+lemma addSubMapCoeff_condition (x : Fin 3 → R) (i : Fin 3) :
+    ∑ j : Fin 3, (C (↑W.Δ'⁻¹ : R) * addSubMapCoeff W (i, j)).eval x *
+      (addSubMap W j).eval x = x i ^ 4 := by
+  simp only [eval_mul, eval_C, mul_assoc]
+  rw [← Finset.mul_sum, Units.inv_mul_eq_iff_eq_mul, Fin.sum_univ_three]
+  simp only [addSubMap, addSubMapCoeff, Function.uncurry_apply_pair, coe_Δ', Δ]
+  fin_cases i <;> simp <;> grind only [b_relation]
+
+lemma addSubMap_ne_zero [IsDomain R] {x : Fin 3 → R} (hx : x ≠ 0) :
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean]: Seems like we just need `R` to be reduced:
```suggestion
lemma addSubMap_ne_zero [IsReduced R] {x : Fin 3 → R} (hx : x ≠ 0) :
```

File: Mathlib/NumberTheory/Height/EllipticCurve.lean [hunk 23]
```diff
@@ -0,0 +1,58 @@
...
+is a morphism.
+
+This implies that `|logHeight (F x) - 2 * logHeight x| ≤ C` for a constant `C`,
+where `x = ![s, t, u]` and `F` acts on the coordinate vector. -/
+theorem abs_logHeight_addSubMap_sub_two_mul_logHeight_le :
+    ∃ C, ∀ x : Fin 3 → K,
+      |logHeight (fun i ↦ (addSubMap W i).eval x) - 2 * logHeight x| ≤ C := by
+  obtain ⟨C₁, hC₁⟩ := logHeight_eval_le' <| isHomogeneous_addSubMap W
+  obtain ⟨C₂, h⟩ := logHeight_eval_ge' (N := 2) <|
+    fun ij ↦ IsHomogeneous.C_mul (isHomogeneous_addSubMapCoeff W ij) (↑W.Δ'⁻¹ : K)
```
Comment (Multramate) [inline Mathlib/NumberTheory/Height/EllipticCurve.lean]: This probably works:
```suggestion
  obtain ⟨C₂, h⟩ := logHeight_eval_ge' (N := 2)
    fun ij ↦ (isHomogeneous_addSubMapCoeff W ij).C_mul ↑W.Δ'⁻¹
```

File: Mathlib/NumberTheory/Height/EllipticCurve.lean [hunk 24]
```diff
@@ -0,0 +1,58 @@
...
+
+public section
+
+namespace WeierstrassCurve
+
+open Height
+
+variable {K : Type*} [Field K] [AdmissibleAbsValues K] (W : WeierstrassCurve K) [W.IsElliptic]
+
+open MvPolynomial
```
Comment (Multramate) [inline Mathlib/NumberTheory/Height/EllipticCurve.lean]:
```suggestion
open Height MvPolynomial

variable {K : Type*} [Field K] [AdmissibleAbsValues K] (W : WeierstrassCurve K) [W.IsElliptic]
```

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean [hunk 25]
```diff
@@ -0,0 +1,135 @@
...
+        C (4 * W.b₂ * W.b₄ * W.b₈ - 4 * W.b₂ * W.b₆ ^ 2) * t * u],
+    ![C (-12) * t ^ 2 + C (-4 * W.b₂) * t * u + C (W.b₂ ^ 2 - 32 * W.b₄) * u ^ 2,
+      C 6 * s * t + C (-W.b₂) * s * u + C (-5 * W.b₄) * t * u + C (W.b₂ * W.b₄ - 27 * W.b₆) * u ^ 2,
+      C (-8 * W.b₄) * s * u + C (-12 * W.b₆) * t * u + C (W.b₄ ^ 2 - 28 * W.b₈) * u ^ 2]].uncurry
+
+private lemma CXX {i : Fin 3} {a : R} : (C a * X (R := R) i ^ 2).IsHomogeneous 2 :=
+    isHomogeneous_C_mul_X_pow ..
+
+private lemma CXY {i j : Fin 3} {a : R} : (C a * X (R := R) i * X j).IsHomogeneous 2 :=
+    .mul (isHomogeneous_C_mul_X ..) (isHomogeneous_X ..)
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean]:
```suggestion
  isHomogeneous_C_mul_X_pow ..

private lemma CXY {i j : Fin 3} {a : R} : (C a * X (R := R) i * X j).IsHomogeneous 2 :=
  .mul (isHomogeneous_C_mul_X ..) (isHomogeneous_X ..)
```

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean [hunk 26]
```diff
@@ -0,0 +1,135 @@
...
+    -- <;> repeat first | refine .add ?_ CXY | refine .add ?_ CXX | exact CXX | exact CXY
+  · exact .add (.add (.add (.add CXX CXY) CXY) CXX) CXY
+  · exact .add (.add (.add (.add CXX CXY) CXY) CXX) CXY
+  · exact .add (.add CXX CXY) CXY
+  · exact .add (.add CXY CXX) CXY
+  · exact .add (.add (.add CXX CXY) CXX) CXY
+  · exact .add (.add (.add (.add CXX CXY) CXY) CXX) CXY
+  · exact .add (.add CXX CXY) CXX
+  · exact .add (.add (.add CXY CXY) CXY) CXX
+  · exact .add (.add CXY CXY) CXX
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean]: This increases the number of heartbeats by a tiny bit (~100) but is clearer to me I think:
```suggestion
  · exact (((CXX.add CXY).add CXY).add CXX).add CXY
  · exact (((CXX.add CXY).add CXY).add CXX).add CXY
  · exact (CXX.add CXY).add CXY
  · exact (CXY.add CXX).add CXY
  · exact ((CXX.add CXY).add CXX).add CXY
  · exact (((CXX.add CXY).add CXY).add CXX).add CXY
  · exact (CXX.add CXY).add CXX
  · exact ((CXY.add CXY).add CXY).add CXX
  · exact (CXY.add CXY).add CXX
```
You could even use `|>` instead of the brackets.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean [hunk 27]
```diff
@@ -0,0 +1,135 @@
...
+
+variable [W.IsElliptic]
+
+lemma addSubMapCoeff_condition (x : Fin 3 → R) (i : Fin 3) :
+    ∑ j : Fin 3, (C (↑W.Δ'⁻¹ : R) * addSubMapCoeff W (i, j)).eval x *
+      (addSubMap W j).eval x = x i ^ 4 := by
+  simp only [eval_mul, eval_C, mul_assoc]
+  rw [← Finset.mul_sum, Units.inv_mul_eq_iff_eq_mul, Fin.sum_univ_three]
+  simp only [addSubMap, addSubMapCoeff, Function.uncurry_apply_pair, coe_Δ', Δ]
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean]: I guess they can be grouped together:
```suggestion
  rw [← Finset.mul_sum, Units.inv_mul_eq_iff_eq_mul, Fin.sum_univ_three, addSubMap, addSubMapCoeff,
    Function.uncurry_apply_pair, coe_Δ', Δ]
```

File: Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean [hunk 28]
```diff
@@ -0,0 +1,135 @@
...
+  fin_cases i <;> simp <;> grind only [b_relation]
+
+lemma addSubMap_ne_zero [IsDomain R] {x : Fin 3 → R} (hx : x ≠ 0) :
+    (fun i ↦ (addSubMap W i).eval x) ≠ 0 := by
+  contrapose! hx
+  ext i : 1
+  replace hx i : (addSubMap W i).eval x = 0 := by
+    rw [Pi.zero_def, funext_iff] at hx
+    exact hx i
+  simpa [hx] using (addSubMapCoeff_condition W x i).symm
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Affine/AddSubMap.lean]:
```suggestion
  contrapose! hx
  ext i
  simpa [congrFun hx] using (addSubMapCoeff_condition W x i).symm
```

**Review by Multramate — APPROVED** [review]
I'm happy with this now, except that I wonder if we can avoid writing out `addSubMapCoeffs` entirely (just because it's so big). I'm guessing you computed them with a computer algebra system with Euclidean division? Maybe we can do that here too if you don't mind. Silverman uses Nullstellensatz apparently (Proof of Theorem VII.5.6?).

**Comment by MichaelStollBayreuth** [comment]
Thanks for the further suggestions!

> I'm happy with this now, except that I wonder if we can avoid writing out `addSubMapCoeffs` entirely (just because it's so big). I'm guessing you computed them with a computer algebra system with Euclidean division? Maybe we can do that here too if you don't mind. Silverman uses Nullstellensatz apparently (Proof of Theorem VII.5.6?).

One advantage of having (one version of -- they are not unique) the coefficients explicitly is that one can then extract an explicit bound (even though it will not be terribly good). To apply the Nullstellensatz, one still needs to show that the three polynomials do not have a nontrivial common zero, which I would think is not that different from what I am doing here. I wonder if the `grobner` module of `grind` can be used to produce the coefficients, however. I'm a bit doubtful that this works -- the claim is an existential statement, and `grind` is not able to deal with these so far.
